US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-[2-(4-morpholinyl)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (0.458 g) is dissolved in DMF (10 mL), and K2CO3 (0.69 g) and 4-(2-chloroethyl)morpholine hydrochloride (0.47 g) are added. The reaction mixture is heated to 90° C. for 2 h. Water is added and a dark solid formed, which is isolated by decanting the liquid. Column chromatography (elution with 1-5% MeOH/CHCl3) gave 0.183 g of a solid. Crystallization by dissolving in CH2Cl2 with a few drops of MeOH and adding to a 1:1 solution of pentane/Et2O gave 0.13 g of the title compound as a solid.

reactant | 4-chlorobenzyl-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(=O)N)O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 0.47 g | Cl.ClCCN1CCOCC1
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-[2-(4-morpholinyl)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.183 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCN2CCOCC2)C=C1 | C26H26ClN3O4
